US08729105B2
Preparation of 5-(4-chloro-3-methylphenyl)-6-cyclobutoxynicotinic acid
The title compound was synthesized in analogy to Example BQ using 5-bromo-6-cyclobutoxy-nicotinic acid (example BY) and B-(4-chloro-3-methylphenyl)-boronic acid (CAN 161950-10-3) as starting materials; MS (ESI): 316.2 (M−H)−.

reactant | 5-bromo-6-cyclobutoxy-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)OC1CCC1 | C10H10BrNO3
reactant | B-(4-chloro-3-methylphenyl)-boronic acid | ClC1=C(C=C(C=C1)B(O)O)C | C7H8BClO2
product | 5-(4-chloro-3-methylphenyl)-6-cyclobutoxynicotinic acid | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OC1CCC1)C | C17H16ClNO3
